US06756378B2
11 and 12 To a stirred mixture of Boc-prolinol (3.51 g, 17.5 mmol), methyl m-hydroxyphenylacetate (2.90 g, 17.5 mmol), triphenylphosphine (4.60 g, 17.6 mol) in THF (50 mL) was added dropwise diethyl azodicarboxylate (3.05 g, 17.5 mmol) at room temp. After the addition was completed, the mixture was heated under reflux for 3 hr. After cooling, the mixture was concentrated in vacuo. The residue was dissolved in EtOAc, washed successively with 1 N NaOH, water, brine and dried over MgSO4. After removal of the solvent, the residue was purified by column chromatography on silica-gel with EtOAc-hexane (1:4, v/v) as eluent to give 5.49 g (90%) methyl (S)-3-(1-tert-butoxycarbonyl-2-pyrrolidinyl)methoxyphenylacetate as an oil.

reactant | Boc-prolinol | 17.5 mmol, 3.51 g | C(=O)(OC(C)(C)C)N1[C@H](CO)CCC1 | C10H19NO3
reactant | triphenylphosphine | 17.6 mol, 4.60 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 17.5 mmol, 3.05 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | THF | 50 mL | C1CCOC1 | C4H8O
product | methyl (S)-3-(1-tert-butoxycarbonyl-2-pyrrolidinyl)methoxyphenylacetate | 5.49 g, 90% | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)COC=1C=C(C=CC1)CC(=O)OC | C19H27NO5
